US04251447
To the cold solution of malonic anhydride, prepared as above, was added aniline (700 μl, 6 equivalents). The reaction mixture was allowed to warm to room temperature. It was then extracted with 5 ml saturated aqueous NaHCO3, and the aqueous extract was washed with 5 ml ether, acidified with H2SO4, and extracted with 3 4-ml portions of ether. The ether extracts were combined and dried over Na2SO4, and the ether was removed under reduced pressure, to leave a residue of malonanilide (mp 127°-130° C., 180 mg, 72% isolated yield, based on diketene).

reactant | malonic anhydride | C1(CC(=O)O1)=O | C3H2O3
reactant | aniline | 700 μl, 6 equivalents | NC1=CC=CC=C1 | C6H7N
product | malonanilide | 180 mg, 72% | C(CC(=O)NC1=CC=CC=C1)(=O)NC1=CC=CC=C1 | C15H14N2O2
